US07875647B2
3-(5-(4-Chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazol-3-yl)-5-cyclopentyl-1H-1,2,4-triazole
A solution of 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carbonitrile (300 mg, 0.83 mmol), cyclopentanecarbohydrazide (116 mg, 0.90 mmol) and potassium carbonate (57 mg, 0.41 mmol) dissolved in 1-butanol (2 ml) was placed in a sealed tube, stirred at room temperature for 10 minutes and then refluxed at 150° C. for 1 day. The mixture was cooled down to room temperature and methanol (4 ml) was added thereto, followed by filtering. The filtrate was purified by reverse phase preparative HPLC, to obtain the title compound as white solid.

reactant | 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carbonitrile | 0.83 mmol, 300 mg | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C#N)C | C17H10Cl3N3
reactant | cyclopentanecarbohydrazide | 0.90 mmol, 116 mg | C1(CCCC1)C(=O)NN | C6H12N2O
reactant | potassium carbonate | 0.41 mmol, 57 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 4 ml | CO | CH4O
solvent | 1-butanol | 2 ml | C(CCC)O | C4H10O
product | 3-(5-(4-Chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazol-3-yl)-5-cyclopentyl-1H-1,2,4-triazole | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C1=NNC(=N1)C1CCCC1)C | C23H20Cl3N5
